US09370522B2
Nitric acid (fuming) (23.8 g, 378 mmol, 1.20 equiv) was added in portions under 50° C. to a mixture of 4-acetamido-2-hydroxybenzoic acid (61.4 g, 315 mmol, 1.00 equiv) and TFA (700 mL) in a 2-L round-bottom flask. The resulting solution was allowed to react, with stirring, for 3 hr at room temperature before being concentrated under vacuum. The residue was dissolved in 800 mL of acetone, stirred for 15 min. at reflux, then cooled. The solids were collected by filtration, giving 21.1 g (28%) of 4-acetamido-2-hydroxy-5-nitrobenzoic acid as an orange solid.

reactant | Nitric acid | 378 mmol, 23.8 g, 1.20 equiv | [N+](=O)(O)[O-] | HNO3
reactant | 4-acetamido-2-hydroxybenzoic acid | 315 mmol, 61.4 g, 1.00 equiv | C(C)(=O)NC1=CC(=C(C(=O)O)C=C1)O | C9H9NO4
solvent | TFA | 700 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-acetamido-2-hydroxy-5-nitrobenzoic acid | 21.1 g, 28% | C(C)(=O)NC1=CC(=C(C(=O)O)C=C1[N+](=O)[O-])O | C9H8N2O6
